US06964966B2
A mixture of 20% Pd(OH)2 on carbon (0.3 g) and 4-acetylamino-1-benzyl-3,3-dimethyl piperidine (1.8 g, 6.92 mmol) in methanol (20 ml) was stirred in hydrogen atmosphere (1 atm.) at 35° C. for 6 hr. The catalyst was filtered off, washed with methanol and filtrate was concentrated to dryness to afford 4-acetylamino-3,3-dimethylpiperidine. Yield 1.0 g (90%), C9H18N2O, m/z 171 (M+1).

reactant | 4-acetylamino-1-benzyl-3,3-dimethyl piperidine | 6.92 mmol, 1.8 g | C(C)(=O)NC1C(CN(CC1)CC1=CC=CC=C1)(C)C | C16H24N2O
solvent | methanol | 20 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | Pd(OH)2 on carbon | 0.3 g | [OH-].[OH-].[Pd+2]
product | 4-acetylamino-3,3-dimethylpiperidine | C(C)(=O)NC1C(CNCC1)(C)C | C9H18N2O
